US07098212B2
(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylsulfanyl)-acetic acid methyl ester
To 2-(4-chloro-2-chloromethyl-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone (0.10 g, 0.23 mmol) in dimethyl formamide (2 ml) was added potassium carbonate (0.070 g, 0.51 mmol), tetrabutylammonium iodide (0.088 mg, 0.24 mmol) and finally methyl thioglycolate (0.02 ml, 0.25 mmol). The reaction was stirred at 50° C. for 19 hours. The reaction was diluted with ethyl acetate and washed with pH 7 phosphate buffer (0.05 M) and aqueous saturated sodium chloride. The organic layer was dried over magnesium sulfate and the title compound was isolated by chromatography on silica gel (0.046 g).

reactant | 2-(4-chloro-2-chloromethyl-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-ethanone | 0.23 mmol, 0.10 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=C1)CCl | C22H25Cl2FN2O2
reactant | potassium carbonate | 0.51 mmol, 0.070 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl thioglycolate | 0.25 mmol, 0.02 ml | C(CS)(=O)OC | C3H6O2S
solvent | dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | 0.24 mmol, 0.088 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-Chloro-2-{2-[4-(4-fluoro-benzyl)-(2R,5S)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzylsulfanyl)-acetic acid methyl ester | COC(CSCC1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C25H30ClFN2O4S
